US06455507B1
An ethanolic solution of 2-bromo-5,6-dichloro-1-(3,4-di-O-acetyl-2-deoxy-beta-D-erythro-pentopyranosyl)-1H-benzimidazole (0.13 g, 0.28 mmol) was deprotected in a modification of General Procedure VI with 0.077 g (0.73 mmol) of sodium carbonate in 1 ml of water. After stirring overnight at ambient temperature, the mixture was treated as described in General Procedure VI. The crude product was triturated in dichloromethane and hexane to give 0.06 g (0.16 mmol, 56% yield) of 2-bromo-5,6-dichloro-1-(2-deoxy-beta-D-erythro-pentopyranosyl)-1H-benzimidazole. 1H NMR (DMSO-d6) δ8.01 (s, 1H), 7.92 (s, 1H), 5.96-5.94 (d, 1H), 5.02 (s, 1H), 4.90-4.89 (d, 1H), 4.01 (s, 1H), 3.94-3.86 (m, 1H), 3.74-3.72 (d, 2H), 2.42-2.39 (m, 1H—partially underneath residual DMSO signal), 1.90-1.87 (d, 1H).

reactant | 2-bromo-5,6-dichloro-1-(3,4-di-O-acetyl-2-deoxy-beta-D-erythro-pentopyranosyl)-1H-benzimidazole | 0.28 mmol, 0.13 g | BrC1=NC2=C(N1[C@H]1C[C@H](OC(C)=O)[C@H](OC(C)=O)CO1)C=C(C(=C2)Cl)Cl | C16H15BrCl2N2O5
reactant | sodium carbonate | 0.73 mmol, 0.077 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | water | 1 ml | O | H2O
product | 2-bromo-5,6-dichloro-1-(2-deoxy-beta-D-erythro-pentopyranosyl)-1H-benzimidazole | 0.16 mmol, 0.06 g, 56% yield | BrC1=NC2=C(N1[C@H]1C[C@H](O)[C@H](O)CO1)C=C(C(=C2)Cl)Cl | C12H11BrCl2N2O3
